US07241890B2
A mixture of N-(4-butylamino-6-chloro-pyrimidin-5-yl)-2-(2,5-dimethoxyphenyl) acetamide (1 mmol) and p-TSA (0.5 mmol) in toluene was refluxed for 72 h. Solvent was removed, diluted with EtOAc and washed with water, bicarbonate and dried. Purification on a silica gel column (200-400 mesh, Fisher Scientific, Tustin, Calif., USA) gave 6-chloro-8-(2,5-dimethoxybenzyl)-N9-butyl purine. Rf=0.65 in 1:1 EtOAc:hexane. 1H NMR (DMSO-d6) δ 8.7 (s, 1H), 6.96 (d, 1H), 6.84 (m, 1H), 6.8 (dd, 1H), 4.28 (s, 2H), 4.23 (t, 2H), 3.69 (s, 3H), 3.67 (s, 3H), 1.62 (m, 2H), 1.25 (m, 2H), 0.88 (t, 3H).

reactant | N-(4-butylamino-6-chloro-pyrimidin-5-yl)-2-(2,5-dimethoxyphenyl) acetamide | 1 mmol | C(CCC)NC1=NC=NC(=C1NC(CC1=C(C=CC(=C1)OC)OC)=O)Cl | C18H23ClN4O3
reactant | p-TSA | 0.5 mmol | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-8-(2,5-dimethoxybenzyl)-N9-butyl purine | ClC1=C2N=C(N(C2=NC=N1)CCCC)CC1=C(C=CC(=C1)OC)OC | C18H21ClN4O2
